US04162246
Glycerol tris[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether (Compound No. 177)
12.0 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]-decane-2,4-dione, 4.1 g of glycerol tris(2,3-epoxypropyl)ether and 1.1 g of potassium hydroxide were reacted in 80 ml of methanol, following substantially the same procedure as in Example 1. The desired Compound No. 177 was obtained in the form of a white powder, having an Rf value of 0.45 on thin-layer chromatography on silica gel using a 4:4:4:1:1 by volume mixture of benzene, ethyl acetate, chloroform, methanol and triethylamine as developing solvent.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]-decane-2,4-dione | 12.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | glycerol tris(2,3-epoxypropyl)ether | 4.1 g | O1C(COCC(OCC2CO2)COCC2CO2)C1 | C12H20O6
reactant | potassium hydroxide | 1.1 g | [OH-].[K+]
solvent | methanol | 80 ml | CO | CH4O
product | Glycerol tris[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether | OC(COCC(OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)COCC(CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O)O)CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O | C48H83N9O12
